US07223772B1
4-[2-(3-Fluorophenyl)-6-(trifluoromethyl)pyrazolo[1,5-a]pyridin-3-yl]-N-(2-methoxyacetyl)benzenesulfonamide
To a solution of 4-[2-(3-fluoro-phenyl)-6-trifluoromethyl-pyrazolo[1,5-a]pyridin-3-yl]-benzenesulfonamide (0.15 g 0.35 mmol) in dry THF (3 ml) was added N,N-(diisopropyl)aminomethylpolystyrene (Argonaut Technologies) (0.25 g 0.9 mmol), 4-dimethylaminopyridine (Aldrich) (0.03 g 0.25 mmol) and methoxyacetyl chloride (Aldrich) (0.09 g 0.8 mmol) and the mixture was shaken at room temperature for 18 hr. Tris-(2-aminoethyl)amine polystyrene (Argonaut Technologies) (0.5 g 1.7 mmol) was added and shaking continued for 6 hr. The resins were filtered, washed with dichloromethane (5 ml) and the solvents were removed. The residue was purified by SPE chromatography eluting with cyclohexane:ethyl acetate (5:1 then 2:1) to give the title compound as a white solid. (0.07 g, 40%).

reactant | 4-[2-(3-fluoro-phenyl)-6-trifluoromethyl-pyrazolo[1,5-a]pyridin-3-yl]-benzenesulfonamide | 0.35 mmol, 0.15 g | FC=1C=C(C=CC1)C1=NN2C(C=CC(=C2)C(F)(F)F)=C1C1=CC=C(C=C1)S(=O)(=O)N | C20H13F4N3O2S
reactant | methoxyacetyl chloride | 0.8 mmol, 0.09 g | COCC(=O)Cl | C3H5ClO2
solvent | THF | 3 ml | C1CCOC1 | C4H8O
catalyst | 4-dimethylaminopyridine | 0.25 mmol, 0.03 g | CN(C1=CC=NC=C1)C | C7H10N2
product | 4-[2-(3-Fluorophenyl)-6-(trifluoromethyl)pyrazolo[1,5-a]pyridin-3-yl]-N-(2-methoxyacetyl)benzenesulfonamide | FC=1C=C(C=CC1)C1=NN2C(C=CC(=C2)C(F)(F)F)=C1C1=CC=C(C=C1)S(=O)(=O)NC(COC)=O | C23H17F4N3O4S
